US08877754B2
3-(4-Iodo-phenyl)-2-methyl-propionic acid
To 2.30 g (5.89 mmol) 2-(4-iodo-benzyl)-2-methyl-malonic acid diethyl ester (V.1) in 30 mL EtOH are added 30 mL 1N NaOH. The mixture is stirred at reflux for 2 h. The solvent is evaporated and 35 mL 4N HCl are added. The mixture is stirred at 60° C. for 12 h. The solid is filtered off to yield the desired product.

reactant | 2-(4-iodo-benzyl)-2-methyl-malonic acid diethyl ester | 5.89 mmol, 2.30 g | C(C)OC(C(C(=O)OCC)(C)CC1=CC=C(C=C1)I)=O | C15H19IO4
reactant | NaOH | 1N, 30 mL | [OH-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | 3-(4-Iodo-phenyl)-2-methyl-propionic acid | IC1=CC=C(C=C1)CC(C(=O)O)C | C10H11IO2
